Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
pravastatin / oxycodone / lisinopril
 
Attending: ___
 
Chief Complaint:
acute onset
of visual changes and left face and arm numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with history of HTN, bilateral primary open
angle glaucoma, OSA not yet on CPAP who presents with acute 
onset
of visual changes and left face and arm numbness, for whom Code
Stroke was called. History provided by patient.

Mr. ___ reports he was in his usual state of health
neurologically until the last ___ weeks when he began
experiencing left arm parasthesias and numbness. This is
localized to the left arm, primarily in the antecubital fossa,
radiating several inches proximally up the arm and several 
inches
distally in the forearm circumferentially, not in a clear
dermatomal distribution.  This sensation was present most of the
day for the last ___ weeks, and annoying but not impacting his
daily functioning.

This morning, he was last well at around 11:00am. He works at 
the
___ desk and had taken several calls without difficulty 
since
his arrival to work at around 9:40am.  At around 11:00am, he
began developing more severe numbness and tingling in the left
arm, in the same area that was previously affected. This
persisted for about 15 minutes, when he then developed acute
onset of vision loss. He reports that "a curtain came down over
my eyes, and everything went black."  He is not sure whether it
was monocular or binocular; he did not try closing either eye to
see if it resolved. After a few seconds he turned toward the
window and was able to do see "only that it was window vaguely,
nothing through it."  He stood up and was able to find his way 
to
his supervisor's office with great difficulty, when he told him
what was going on and was helped to a chair. Once he sat in the
chair, the vision loss began to significantly improve. He
estimates that the period of vision loss lasted a few minutes. 

His supervisor called ___. As he was sitting there waiting for
EMS to arrive, the left arm numbness/tingling remained
persistent, and he began to have left face numbness/tingling as
well (which was new).  No symptoms in the leg. When EMS came to
see him shortly thereafter, he reports he had difficulty
focusing. He again is not sure whether this was monocular or
binocular. There was no visual loss at this point, rather the
vision was generally blurry. He then was brought to ___ for
further evaluation.

Throughout this time, Mr. ___ denies any pain, denies any
diplopia, denies flashers, denies floaters, denies focal
weakness, denies headache,denies difficulty understanding or
expressing speech. 

On arrival to ___ ED he reports that the vision is generally
blurry but significantly improved. Now, after re-examining him
after CT scan, the vision is back to normal. By the time of
arrival to the ED, the left face numbness has resolved, and the
left arm numbness is improving but not yet fully resolved. He 
had
an NIHSS of 1 per ED scoring for left face numbness, but it is 0
on my exam en route to CT scanner. 

Of note:
- Mr. ___ has a history of bilateral severe open angle
glaucoma. He reports that only symptoms he has at baseline from
this is that "everything seems darker" and he has some 
difficulty
at times distinguishing between light and dark places. He has
never had sensation like this before. He actually saw his
Opthalmologist yesterday who did not that his glaucoma is not
well controlled and he has severe glaucomatous optic neuropathy
___, with constriction of visual field in both eyes. He is on
latanoprost and recommended continuing this for the time being.
Plan for formal binocular visual field testing for driving in 
the
near future.
- Patient has had multiple ED visits recently for various
symptoms. Most recently was in ED ___ for bilateral leg
restlessness and leg tingling. He was asymptomatic on arrival 
and
discharged with plans for neuro-urgent care. Patient reports the
leg tingling is present mostly at night and has been going on 
for
months. Prior to that he was seen on ___ in ED for intermittent
dizziness and palpitations, found to have hypokalemia, and felt
related to chlorthalidone which was stopped. Finally he was seen
on ___ with headache, found to be hypertensive, with headache
improved as BP was normalized. 

Apart from above, patient denies any recent changes to his
routine such as missed medication doses, recent illness,
fevers/chills or trauma. 
 
On neuro ROS:
+ intermittent b/l leg tingling (chronic), left arm
numbness/tingling as above
-  denies headache, loss of vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.
 
On general review of systems: Denies recent fever or chills.  No
night sweats or recent weight loss or gain. Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
Past Medical History:
Bilateral severe open angle glaucoma
HTN 
OSA not on CPAP (is working on having this arranged)
 
Social History:
___
Family History:
Denies any family history of premature CAD, stroke or
blood clots. 
 
Physical Exam:
Admission Physical Exam:
Vitals: HR 56, BP 124/79, RR 17, O2 100% RA 
Glucose 83

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  Visual acuity with his glasses is ___
bilaterally. PERRL 3 to 2mm and brisk. Unable to visualized 
fundi
despite attempt in busy ED hallway. EOMI without nystagmus.
Normal saccades. VFF to confrontation via finger counting. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No agraphesthesia. No extinction to DSS. Romberg
absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

Discharge  Physical Exam:
24 HR Data (last updated ___ @ 1735)
    Temp: 98.3 (Tm 98.3), BP: 143/88 (113-144/73-88), HR: 59
(44-71), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra,
Wt: 223.1 lb/101.2 kg

General: middle aged man sitting comfortably in bed
HEENT: NC/AT
Pulmonary: breathing comfortably on room air
Cardiac: RRR, warm, well-perfused
Abdomen: soft, ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  
Neurologic: 
-MS: awake, alert. oriented to ___, date. Able to relay 
history
without difficulty. Language is fluent. No paraphasic errors. 
-CN: PERRL 5-3mm b/l. VFF to confrontation. EOMI, no nystagmus.
Facial sensation equal b/l. No facial asymmetry. Symmetric 
palate
elevation. Tongue midline. ___ trapezius b/l. 
-Motor
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5     5     5    5     5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory; intact to pinprick throughout
-Reflexes: 2+ biceps, 2+ patellar. 
-Coordination: Intact FNF, no dysmetria. Intact finger tapping. 
-Gait: Deferred. 
 
Pertinent Results:
___ 12:12PM BLOOD WBC-6.4 RBC-5.14 Hgb-15.3 Hct-45.1 MCV-88 
MCH-29.8 MCHC-33.9 RDW-12.3 RDWSD-39.7 Plt ___
___ 12:12PM BLOOD Neuts-37.9 ___ Monos-8.8 Eos-3.0 
Baso-1.3* Im ___ AbsNeut-2.44 AbsLymp-3.12 AbsMono-0.56 
AbsEos-0.19 AbsBaso-0.08
___ 12:12PM BLOOD Glucose-89 UreaN-12 Creat-1.1 Na-140 
K-4.2 Cl-99 HCO3-26 AnGap-15
___ 12:12PM BLOOD ALT-30 AST-27 AlkPhos-69 TotBili-0.5
___ 12:12PM BLOOD cTropnT-<0.01
___ 12:12PM BLOOD Albumin-4.6 Calcium-9.8 Phos-3.3 Mg-2.1 
Cholest-178
___ 12:12PM BLOOD %HbA1c-6.2* eAG-131*
___ 12:12PM BLOOD Triglyc-127 HDL-44 CHOL/HD-4.0 
LDLcalc-109

Non-Contrast CT of Head: No acute process per my read. Mild
periventricular white matter disease c/w small vessel ischemic
changes.

CTA head/neck: ___ and d/w stroke fellow there is a
possible plaque just distal to right carotid bifurcation in the
right ICA. Pending reformats. Otherwise no large vessel
occlusion, no significant intracranial disease. 

MRI Head ___
FINDINGS:  
No evidence of acute intracranial hemorrhage.
No diffusion restriction with corresponding ADC signal to 
suggest new infarct.No mass or subsequent mass effect.  The 
ventricle and sulci are unremarkable. 
The intracranial flow voids are preserved. 
The paranasal sinuses, middle ear cavities are unremarkable. 
IMPRESSION: 
 
1. No evidence of acute intracranial hemorrhage or large 
territorial infarct.

Carotid Duplex ___ FINDINGS: 
RIGHT:
The right carotid vasculature has mild heterogeneous 
atherosclerotic plaque.
The peak systolic velocity in the right common carotid artery is 
59 cm/sec.
The peak systolic velocities in the proximal, mid, and distal 
right internal
carotid artery are 28, 35, and 50 a cm/sec, respectively.  The 
peak end
diastolic velocity in the right internal carotid artery is 22 
cm/sec.
The ICA/CCA ratio is 0.98.
The external carotid artery has peak systolic velocity of 49 
cm/sec.
The vertebral artery is patent with antegrade flow.
 
LEFT:
The left carotid vasculature has no atherosclerotic plaque.
The peak systolic velocity in the left common carotid artery is 
82 cm/sec.
The peak systolic velocities in the proximal, mid, and distal 
left internal
carotid artery are 33, 47, and 58 cm/sec, respectively.  The 
peak end
diastolic velocity in the left internal carotid artery is 25 
cm/sec.
The ICA/CCA ratio is 0.7.
The external carotid artery has peak systolic velocity of 73 
cm/sec.
The vertebral artery is patent with antegrade flow.
 
IMPRESSION: 
 
No evidence of significant stenosis in the internal carotid 
arteries
bilaterally.
 
Brief Hospital Course:
___ year old man with history of HTN, bilateral primary open 
angle glaucoma, OSA not yet on CPAP who presents with acute 
onset of visual changes and left face and arm numbness, for whom 
Code Stroke was called. History is notable for ___ week history 
of intermittent patchy left arm sensory changes, and more 
acutely this morning developed acute onset of left arm 
numbness/tingling followed shortly thereafter with acute onset 
of visual loss lasting a few minutes (unclear if monocular or 
binocular), and left face/arm tingling. Visual loss resolved 
after a few minutes, sensation improving. His neurologic 
examination is normal at this stage including visual fields and 
acuity.
Later, patient's history seemed more consistent with a 
pre-syncopal event as patient did not lose vision fully. He had 
visual dimming and felt like he was about to pass out. Patient 
also had sinus bradycardia on telemetry down to ___ while 
sleeping but asymptomatic. 
MRI did not show acute infarct. CTA showed diffuse narrowing of 
R ACA. Carotid US showed less than 40% stenosis. 
Unclear etiology of event but patient has glaucoma and reports 
palpitations recently. TIA is less likely given numbness is 
patchy and transient on L forearm and L leg. Patient was 
bradycardic to ___ overnight while sleeping but asymptomatic. 

#Hypertension: Continue home antihypertensives

Transitional Issues: 
[] f/u holter monitor results for arrhythmia 
[] TTE as outpatient
[] follow up with cardiologist 
[] follow up with PCP
[] follow up with neurology
 
Medications on Admission:
- Losartan/HCTZ 100mg/25mg daily
-Fish oil 415mg daily
-Latanoprost drops 0.005% ___
-Diclofenac gel 1% daily
-Naproxen 500mg PRN - has not taken recently
- Sildenafil 20mg PRN - has not taken recently 
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  Zolpidem Tartrate 5 mg PO ___ insomnia 
RX *zolpidem 5 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES ___  
4.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Pre-syncope

Secondary diagnosis: 
Hypertension
Transient parasthesias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of sudden onset 
decreased vision. Initially there was concern for a transient 
stroke. MRI scan of the brain did not show any acute stroke.
Your sudden onset decreased vision may be caused by pre-syncope, 
making you feel like you were about to pass out. Sometimes this 
is caused by dehydration or an irregular heart rhythm. 
You also had transient numbness in a patchy area of your left 
arm and left leg. This is likely not due to TIA or stroke, but 
could be caused by nerve compression. 
Please follow up with your primary medical doctor for ___ referral 
to an Atrius neurologist. 
You should follow up with your heart doctor or primary doctor 
who gave you a holter monitor test.
It is also important for your to follow up with your appointment 
to have a sleep study. A CPAP machine may help you sleep better 
and prevent long term health effects of obstructive sleep apnea. 


Please continue to take your medications as prescribed. 

Thank you for the opportunity to participate in your care. 

Sincerely, 

Your ___ Neurology Team

 
Followup Instructions:
___